US07700641B2
A. Synthesis of ethyl(4-bromo-2,3-dioxo-2,3-dihydro-1H-indol-1-yl)acetate
Following the procedure as described in PREPARATION 2A, and making non-critical variations to replace isatin with 4-bromoisatin and (2-bromoethyl)cyclopropane with ethyl bromoacetate, the title compound was obtained as a yellow solid (68%): 1H NMR (300 MHz, CDCl3) δ 7.39 (t, 1H), 7.27(dd, 1H), 6.71 (dd, 1H), 4.47 (s, 2H), 4.23 (q, 2H), 1.27 (t, 3H); MS (ES+) m/z 312 (M+1), 314 (M+1), 334 (M+23), 336 (M+23).

reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 4-bromoisatin | BrC1=C2C(C(NC2=CC=C1)=O)=O | C8H4BrNO2
reactant | (2-bromoethyl)cyclopropane | BrCCC1CC1 | C5H9Br
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | ethyl(4-bromo-2,3-dioxo-2,3-dihydro-1H-indol-1-yl)acetate | C(C)OC(CN1C(C(C2=C(C=CC=C12)Br)=O)=O)=O | C12H10BrNO4
